* C:\Users\subha\OneDrive\Documents\GitHub\PMIC_Final_Project_Fall_Buck_Converter\tb_error_amplifier_tran.asc
XX1 N001 vout N002 0 vout error_amplifier
V1 N001 0 1.8
V3 N002 0 PULSE(0.45 1.35 50n 1n 1n 60n 125n)

* block symbol definitions
.subckt error_amplifier VDDA VINN VINP GNDA VOUT
Q1 N007 N009 GNDA 0 2N3904
R1 N009 GNDA 1Meg
Q2 N001 N007 N009 0 2N3904
M1 N001 N001 VDDA VDDA CMOSP l=180n w=5u
R2 VDDA N007 1Meg
M2 N002 N001 VDDA VDDA CMOSP l=180n w=5u
M3 N003 VINP N002 N002 CMOSP l=180n w=2u
M4 N006 VINN N002 N002 CMOSP l=180n w=2u
M5 N003 N006 GNDA GNDA CMOSN l=360n w=1u
M6 N006 N006 GNDA GNDA CMOSN l=360n w=1u
M7 N005 N001 VDDA VDDA CMOSP l=180n w=5u
M10 N005 N003 GNDA GNDA CMOSN l=180n w=1u
M11 N008 N001 VDDA VDDA CMOSP l=180n w=5u
M12 N008 N008 GNDA GNDA CMOSN l=180n w=1u
C1 N005 N004 5f
R3 N004 N003 60K
M8 VOUT N008 GNDA GNDA CMOSN l=180n w=1u
M9 VDDA N005 VOUT VOUT CMOSN l=180n w=1u
.include tsmc018.lib
.ends error_amplifier

.model NPN NPN
.model PNP PNP
.lib C:\Users\subha\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\subha\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
;op
.tran 0 2u 0 0.1n
.backanno
.end
